US04849422
Grams 6.9 of 1-(2,3-dihydroxypropyl)piperazine and 3.0 g of 4-cyano-3-chloropyridazine in 60 ml dioxane were refluxed for 2 hours. The reaction mixture was settled, the supernatant liquor evaporated to dryness and the residue, which formed, was dissolved in 10 ml concentrated hydrochloric acid and diluted with 10 volumes of isopropanol. A precipitate was obtained formed by a gummy oil, which solidified afterwards giving 5.9 g of 3-[4-(4-cyanopyridazin-3-yl)piperazin-1yl]propane-1,2-diol dihydrochloride which melted at 128°-130° C.

reactant | 1-(2,3-dihydroxypropyl)piperazine | OC(CN1CCNCC1)CO | C7H16N2O2
reactant | 4-cyano-3-chloropyridazine | 3.0 g | C(#N)C1=C(N=NC=C1)Cl | C5H2ClN3
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-[4-(4-cyanopyridazin-3-yl)piperazin-1yl]propane-1,2-diol dihydrochloride | 5.9 g | Cl.Cl.C(#N)C1=C(N=NC=C1)N1CCN(CC1)CC(CO)O | InChI=1S/C12H17N5O2.2ClH/c13-7-10-1-2-14-15-12(10)17-5-3-16(4-6-17)8-11(19)9-18;;/h1-2,11,18-19H,3-6,8-9H2;2*1H
